US08389536B2
3-Fluoro-2-(3-methyl-oxetan-3-ylmethoxy)-5-phenylethynyl-pyridine
The title compound, yellow solid, MS: m/e=298.3 (M+H+), can be prepared in accordance with the general method of example 18 from 2,3-difluoro-5-iodopyridine, (3-methyloxetan-3-yl)methanol and phenylacetylene.

reactant | 2,3-difluoro-5-iodopyridine | FC1=NC=C(C=C1F)I | C5H2F2IN
reactant | (3-methyloxetan-3-yl)methanol | CC1(COC1)CO | C5H10O2
reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
product | 3-Fluoro-2-(3-methyl-oxetan-3-ylmethoxy)-5-phenylethynyl-pyridine | FC=1C(=NC=C(C1)C#CC1=CC=CC=C1)OCC1(COC1)C | C18H16FNO2
